* e:\ic_tl560c\ic_tl560c.cir

.include TL560C.sub
x1 in net-_r1-pad1_ gnd ? out TL560C
r1  net-_r1-pad1_ in 100k
r2  in gnd 500k
r3  net-_r1-pad1_ out 10k
v2 net-_r1-pad1_ gnd  dc 5
v1  net-_c1-pad2_ gnd sine(0 1 1k 0 0)
* u2  out plot_v1
* u1  in plot_v1
c1  in net-_c1-pad2_ 0.047u
.tran 1e-06 10e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in)
.endc
.end
